* ============================================================================
* Pultec EQP-1A — Passive EQ section, HF BOOST configuration
* PedalKernel Validation Circuit (bead pedalkernel-hcpb.1)
* ============================================================================
*
* HF_Boost = 1.0 → rp = 10k (high-Z, tank resonates more freely)
* HF_BW = 0.5 (linear) → rp = 5000Ω (mid bandwidth damping)
* All other audio-taper controls at 0.0 → rp = 10Ω
*
* Tank resonance: f0 = 1/(2π√(47m·5.6n)) ≈ 3.1 kHz
*
* Switched-cap values frozen at position 0:
*   CPS = 100n (0.1u, 20 Hz), KCS = 5600p (5.6n), HFA_sel = 3300p (3.3n)
* ============================================================================

Rin   v_in   n_lf   600

Llf   n_lf   n_lb   2H
R_lfboost  n_lb  0  10

Ccps  n_lf   n_la   100n
R_lfatten  n_la  0  10

Rlf   n_lf   n_hf   56k

Lhf   n_hf   n_hfb  47m
Ckcs  n_hf   n_hfb  5600p
* HF_Boost at 1.0: rp = 10k (tank has high-Z shunt — resonant peak)
R_hfboost  n_hfb  0  10k

* HF_BW at 0.5 (linear): rp = 5000Ω
R_hfbw  n_hf  0  5000

Chfas  n_hf   n_hfa_sw  3300p
R_hfatten  n_hfa_sw  0  10

Rhfa  n_hf   v_out   100k
Rload  v_out  0  100k

