* ============================================================================
* Pultec EQP-1A — Passive EQ section, LF TRICK configuration
* PedalKernel Validation Circuit (bead pedalkernel-hcpb.1)
* ============================================================================
*
* The famous "Pultec trick": LF_Boost=1.0 + LF_Atten=1.0 simultaneously.
* Intended effect: boost below corner, dip above corner (deep-low shelf with scoop).
*
* LF_Boost = 1.0 → rp = 10k
* LF_Atten = 1.0 → rp = 10k
* All other audio-taper controls at 0.0 → rp = 10Ω
* HF_BW = 0.5 (linear) → rp = 5000Ω
*
* Switched-cap values frozen at position 0:
*   CPS = 100n (0.1u, 20 Hz), KCS = 5600p (5.6n), HFA_sel = 3300p (3.3n)
* ============================================================================

Rin   v_in   n_lf   600

Llf   n_lf   n_lb   2H
* LF_Boost at 1.0: rp = 10k
R_lfboost  n_lb  0  10k

Ccps  n_lf   n_la   100n
* LF_Atten at 1.0: rp = 10k
R_lfatten  n_la  0  10k

Rlf   n_lf   n_hf   56k

Lhf   n_hf   n_hfb  47m
Ckcs  n_hf   n_hfb  5600p
R_hfboost  n_hfb  0  10

R_hfbw  n_hf  0  5000

Chfas  n_hf   n_hfa_sw  3300p
R_hfatten  n_hfa_sw  0  10

Rhfa  n_hf   v_out   100k
Rload  v_out  0  100k

